US07985769B2
To a suspension of 3-Amino-5-phenyl-thiophene-2-carboxylic acid methyl ester (5 g, 21.459 mmol) in a mixture of THF:MeOH:H2O (3:2:1, 75 mL), 1N aqueous solution of LiOH.H2O (64 mL, 64.378 mmol) was added. The reaction mixture was stirred at 85° C. (external temperature) for 4 h. Solvents were removed under reduced pressure and the residue was partitioned between water and ethyl acetate. The water layer was separated and acidified with 1N HCl solution and then ethyl acetate was added to it. The organic phase was separated, dried (Na2SO4) and concentrated to obtain 3-Amino-5-phenyl-thiophene-2-carboxylic acid (4.15 g, 88%) as a yellowish solid. 1H NMR (DMSO-D6, 400 MHz): 7.59 (d, 2H), 7.40 (m, 3H), 6.92 (s, 1H).

reactant | 3-Amino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 21.459 mmol, 5 g | COC(=O)C=1SC(=CC1N)C1=CC=CC=C1 | C12H11NO2S
reactant | LiOH.H2O | 64.378 mmol, 64 mL | O[Li].O
solvent | THF MeOH H2O | 75 mL | C1CCOC1.CO.O
product | 3-Amino-5-phenyl-thiophene-2-carboxylic acid | 4.15 g, 88% | NC1=C(SC(=C1)C1=CC=CC=C1)C(=O)O | C11H9NO2S
